US09301951B2
Intermediate 270c benzyl 3-(1-azido-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate
Into a 1000-mL round-bottom flask, was placed a solution of benzyl 3-(1-(tosyloxy)-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate (35.4 g, 59.30 mmol, 1.00 equiv) in N,N-dimethylformamide (400 mL), sodium bicarbonate (10 g, 119.05 mmol, 2.00 equiv), sodium azide (11 g, 169.23 mmol, 3.00 equiv). The resulting solution was stirred overnight at 80° C. The resulting solution was diluted with 200 mL of water. The resulting solution was extracted with 3×100 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×100 mL of NaHCO3 aq. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 25 g (90%) of benzyl 3-(1-azido-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate as brown oil.

reactant | benzyl 3-(1-(tosyloxy)-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate | 59.30 mmol, 35.4 g, 1.00 equiv | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCCOCCOCCOCC#CC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C32H36O9S
reactant | sodium bicarbonate | 119.05 mmol, 10 g, 2.00 equiv | C([O-])(O)=O.[Na+]
reactant | sodium azide | 169.23 mmol, 11 g, 3.00 equiv | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | benzyl 3-(1-azido-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate | N(=[N+]=[N-])CCOCCOCCOCCOCC#CC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C25H29N3O6
